US04464361
5-Ethoxy-2-pyrrolidinone (1.3 g) and an excess of hexamethyldisilazane (10 g) were heated under reflux for 4 hours, at the end of which time the mixture was concentrated under reduced pressure. The oily residue was then distilled under reduced pressure to give 1-trimethylsilyl-5-ethoxy-2-pyrrolidinone as an oil (1.9 g).

reactant | 5-Ethoxy-2-pyrrolidinone | 1.3 g | C(C)OC1CCC(N1)=O | C6H11NO2
reactant | hexamethyldisilazane | 10 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 1-trimethylsilyl-5-ethoxy-2-pyrrolidinone | 1.9 g | C[Si](N1C(CCC1OCC)=O)(C)C | C9H19NO2Si
